US05208348
(1R, 5R, 6S)-6-](1R)-1-Hydroxyethyl-1-methyl-2-oxocarbapenam-3-carboxylic acid 4-nitrobenzyl ester (8.3 g) is dissolved in anhydrous acetonitrile (50 ml), and thereto are added dropwise diisopropylethylamine (4 ml) and diphenylphosphoryl chloride (4.8 ml) in this order under nitrogen gas below 0° C. After stirring the mixture at the same temperature for 30 minutes, a solution of (3R)-3-mercaptopyrrolidine-2-thione (4 g) and diisopropylethylamine (4 ml) in anhydrous acetonitrile (50 ml) is added dropwise to the reaction mixture below -15° C. The mixture is stirred at the same temperature for 1.5 hour, and water (50 ml) is added to the reaction mixture. The mixture is concentrated under reduced pressure to remove acetonitrile. The residue is extracted with ethyl acetate, and the extract is washed with water, dried and evaporated to dryness under reduced pressure. The residue is purified by silica gel column chromatography (eluent, chloroform : methanol =99:1) to give (1R, 5S, 6S)-2-[(3R)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethy l]-1-methylcarbapen-2-em-3-carboxylic acid 4-nitrobenzyl ester (4.3 g) as an amorphous powder.

reactant | (1R)-1-Hydroxyethyl-1-methyl-2-oxocarbapenam-3-carboxylic acid 4-nitrobenzyl ester | 8.3 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2C([C@@]([C@H]3N2C(C3)=O)(C)C(C)O)=O)C=C1 | C17H18N2O7
reactant | diisopropylethylamine | 4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 4.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | (3R)-3-mercaptopyrrolidine-2-thione | 4 g | S[C@H]1C(NCC1)=S | C4H7NS2
reactant | diisopropylethylamine | 4 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | (1R, 5S, 6S)-2-[(3R)-pyrrolidine-2-thion-3-ylthio]-6-[(1R)-1-hydroxyethy l]-1-methylcarbapen-2-em-3-carboxylic acid 4-nitrobenzyl ester | 4.3 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C([C@@H]([C@H]3N2C([C@@H]3[C@@H](C)O)=O)C)S[C@H]3C(NCC3)=S)C=C1 | C21H23N3O6S2
